.title ldo_tb
* Test LDO ACDC

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
.subckt Basic_LDO gnda vdda vinn vout vfb vinp Ib       
XM0 Ib Ib vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos       
XM1 vb4 Ib vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos              
XM2 dm_1 Ib vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos             
XM3 vb3 Ib vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos              
XM4 net20 Ib vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m='2*mosfet_0_8_m_biascm_pmos'                  
XM5 voutn voutn vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos             
XM6 net10 voutn vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos                           
XM7 net7 Ib vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos  
XM24 net1 Ib vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_0_8_l_biascm_pmos W='mosfet_0_8_w_biascm_pmos*1' m=mosfet_0_8_m_biascm_pmos  

XM11 vout net1 vdda vdda sky130_fd_pr__pfet_01v8 L=mosfet_11_1_l_power_pmos W='mosfet_11_1_w_power_pmos*1' m=mosfet_11_1_m_power_pmos  

XM10 net12 net10 net1 net1 sky130_fd_pr__pfet_01v8_lvt L=mosfet_10_1_l_gm2_pmos W='mosfet_10_1_w_gm2_pmos*1' m=mosfet_10_1_m_gm2_pmos

XM8 dm_2 vinp net20 net20 sky130_fd_pr__pfet_01v8 L=mosfet_8_2_l_gm1_pmos W='mosfet_8_2_w_gm1_pmos*1' m=mosfet_8_2_m_gm1_pmos                       
XM9 net106 vinn net20 net20 sky130_fd_pr__pfet_01v8 L=mosfet_8_2_l_gm1_pmos W='mosfet_8_2_w_gm1_pmos*1' m=mosfet_8_2_m_gm1_pmos    

XM14 vb3 vb3 gnda gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m=mosfet_17_7_m_biascm_nmos
XM12 vb4 vb3 net28 gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='4*mosfet_17_7_m_biascm_nmos'
XM13 dm_1 vb3 net31 gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='4*mosfet_17_7_m_biascm_nmos'                          
XM15 voutn vb3 dm_2 gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='4*mosfet_17_7_m_biascm_nmos'       
XM16 net10 vb3 net106 gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='4*mosfet_17_7_m_biascm_nmos'  
XM17 net28 vb4 gnda gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='4*mosfet_17_7_m_biascm_nmos'
XM18 net31 vb4 gnda gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='4*mosfet_17_7_m_biascm_nmos'           
XM19 dm_2 vb4 gnda gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='8*mosfet_17_7_m_biascm_nmos'
XM20 net106 vb4 gnda gnda sky130_fd_pr__nfet_01v8 L=mosfet_17_7_l_biascm_nmos W='mosfet_17_7_w_biascm_nmos*1' m='8*mosfet_17_7_m_biascm_nmos'

XM21 net12 net7 gnda gnda sky130_fd_pr__nfet_01v8 L=mosfet_21_2_l_load2_nmos W='mosfet_21_2_w_load2_nmos*1' m=mosfet_21_2_m_load2_nmos           
XM22 net7 net7 gnda gnda sky130_fd_pr__nfet_01v8 L=mosfet_21_2_l_load2_nmos W='mosfet_21_2_w_load2_nmos*1' m=mosfet_21_2_m_load2_nmos           

r1 vout vfb 300e3
r0 vfb gnda 100e3
XC0 net106 vout sky130_fd_pr__cap_mim_m3_1 W=10 L=10 MF=M_C0 m=M_C0
.ends Basic_LDO

.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "../../sky130_pdk/libs.tech/ngspice/sky130.lib.spice" tt
* (removed r+c include)
* (removed r+c include)
* (removed specialized_cells include)

***************************************
* Step 2: Replace circuit param.  here.
*************************************** 
.PARAM supply_voltage = 1.8
.PARAM Vref = 0.4
.PARAM PARAM_ILOAD =55m 

.param mosfet_0_8_w_biascm_pmos=1.1511714458465576 mosfet_0_8_l_biascm_pmos=2.908731134608388 mosfet_0_8_m_biascm_pmos=27
.param mosfet_8_2_w_gm1_pmos=1.485758513212204 mosfet_8_2_l_gm1_pmos=1.1558892875909805 mosfet_8_2_m_gm1_pmos=14
.param mosfet_10_1_w_gm2_pmos=6.022575721144676 mosfet_10_1_l_gm2_pmos=2.1927622258663177 mosfet_10_1_m_gm2_pmos=27
.param mosfet_11_1_w_power_pmos=7.487297892570496 mosfet_11_1_l_power_pmos=1.1738390671089292 mosfet_11_1_m_power_pmos=949
.param mosfet_17_7_w_biascm_nmos=1.812826544046402 mosfet_17_7_l_biascm_nmos=1.0926024317741394 mosfet_17_7_m_biascm_nmos=5
.param mosfet_21_2_w_load2_nmos=2.9079740941524506 mosfet_21_2_l_load2_nmos=4.691825315356255 mosfet_21_2_m_load2_nmos=24
.param current_0_bias=3.211307168006898e-06
.param M_C0=19
.param M_CL=287


V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc vref_in 0 'Vref'
Vin signal_in 0 dc 'Vref' ac 1 sin('Vref' 100m 500)

* Circuit List:
* Basic_LDO

* XLDO gnda vdda vinn vout vfb vinp Ib
*        |  |     |     |   |    |   |
*        |  |     |     |   |    |   bias current
*        |  |     |     |   |    Non-inverting input 
*        |  |     |     |   Feedback voltage 
*        |  |     |     |   
*        |  |     |     Output
*        |  |     Inverting Input
*        |  Positive Supply
*         Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Basic_LDO -> DFCFC_LDO
*************************************** 
*    ADM TB   
x1 vss vdd vref_in vout1 vfb1 vinp1 Ib Basic_LDO
Ib Ib 0 DC='current_0_bias'
Lfb vinp1 vfb1 1T
Cfb vinp1 signal_in 1T
XCL vout1 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
Iload1 vout1 0 'PARAM_ILOAD'

* PSRR   TB   
VVDDApsrr vddpsrr 0 'supply_voltage'  AC=1
Ib2 Ib2 0 DC='current_0_bias'
XCL2 ppsr1 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
x2 vss vddpsrr vref_in ppsr1 vfb2 vfb2 Ib2 Basic_LDO
Iload2 ppsr1 0 'PARAM_ILOAD'

* DC ALL  TB  
VVDDdc VDDdc 0 'supply_voltage' 
Ib3 Ib3 0 DC='current_0_bias'
XCL3 vout6 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
x3 vss vdddc vref_in vout6 vfb3 vfb3 Ib3 Basic_LDO
Iload3 vout6 0 'PARAM_ILOAD'

.control
* save all voltage and current
save all
.options savecurrents 
set filetype=ascii
set units=degrees

* DC sweep at maxload
alter Iload3 dc=55m
dc VVDDdc 1 3 0.01
plot  v(vout6)
wrdata LDO_TB_Vdrop_maxload v(vout6)

* DC sweep at minload
alter Iload3 dc=5m
dc VVDDdc 1 3 0.01
plot  v(vout6)
wrdata LDO_TB_Vdrop_minload v(vout6)

* LNR at maxload
alter Iload3 dc=55m
dc VVDDdc 1.62 1.98 0.01
meas dc maxval1 MAX V(vout6) from=1.62 to=1.98
meas dc minval1 MIN V(vout6) from=1.62 to=1.98
meas dc avgval1 AVG V(vout6) from=1.62 to=1.98
meas dc ppavl1  PP V(vout6) from=1.62 to=1.98
let LNR1 = ppavl1/avgval1/0.36
print LNR1
plot v(vout6)
wrdata LDO_TB_ACDC_LNR_maxload LNR1

* LNR at minload
alter Iload3 dc=5m
dc VVDDdc 1.62 1.98 0.01
meas dc maxval2 MAX V(vout6) from=1.62 to=1.98
meas dc minval2 MIN V(vout6) from=1.62 to=1.98
meas dc avgval2 AVG V(vout6) from=1.62 to=1.98
meas dc ppavl2  PP V(vout6) from=1.62 to=1.98
let LNR2 = ppavl2/avgval2/0.36
print LNR2
plot v(vout6)
wrdata LDO_TB_ACDC_LNR_minload LNR2

dc Iload3 5m 55m 0.1m
* LR meas   
meas dc maxval MAX V(vout6) from=5m to=55m
meas dc minval MIN V(vout6) from=5m to=55m
meas dc avgval AVG V(vout6) from=5m to=55m
meas dc ppavl  PP V(vout6) from=5m to=55m
let LR = ppavl/avgval/50m
print LR
* Power meas at maxload
meas dc Ivdd1 FIND I(VVDDDC) AT=55m
let Power1 = -1*Ivdd1*1.8
print Power1
* Power meas at minload
meas dc Ivdd2 FIND I(VVDDDC) AT=5m
let Power2 = -1*Ivdd2*1.8
print Power2
*   Vos.meas at maxload
meas dc vout_x FIND V(vout6) AT=55m
let vos1 = vout_x-4*0.4
print vos1
*   Vos.meas at minload
meas dc vout_y FIND V(vout6) AT=5m
let vos2 = vout_y-4*0.4
print vos2
plot v(vout6)
wrdata LDO_TB_ACDC_LR_Power_vos LR Power1 Power2 vos1 vos2 

* Loop test at maxload
alter Iload1 dc=55m
ac dec 10 0.1 1G
meas ac DCPSRp1 find vdb(ppsr1) at = 0.1
meas ac dcgain1 find vdb(vout1) at = 0.1
meas ac gain_bandwidth_product1 when vdb(vout1)=0
meas ac phase_margin1 find vp(vout1) when vdb(vout1)=0
plot vdb(vout1) vdb(ppsr1) vp(vout1)
wrdata LDO_TB_ACDC_PSRR_dcgain_maxload DCPSRp1 dcgain1
wrdata LDO_TB_ACDC_GBW_PM_maxload gain_bandwidth_product1 phase_margin1

* Loop test at minload
alter Iload1 dc=5m
ac dec 10 0.1 1G
meas ac DCPSRp2 find vdb(ppsr1) at = 0.1
meas ac dcgain2 find vdb(vout1) at = 0.1
meas ac gain_bandwidth_product2 when vdb(vout1)=0
meas ac phase_margin2 find vp(vout1) when vdb(vout1)=0
plot vdb(vout1) vdb(ppsr1) vp(vout1)
wrdata LDO_TB_ACDC_PSRR_dcgain_minload DCPSRp2 dcgain2
wrdata LDO_TB_ACDC_GBW_PM_minload gain_bandwidth_product2 phase_margin2

* OP
op

.endc

.end